### PR TITLE
[Merged by Bors] - feat: port RingTheory.Jacobson

### PR DESCRIPTION
**Pull request by joneugster**
---

Potentially interesting mathport bugs:

- translates `quotient.mk` into `Quotient.mk'`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Jacobson.lean [hunk 1]
```diff
@@ -291,74 +273,99 @@ open Polynomial
 
 section CommRing
 
+lemma Subring.mem_closure_image_of {S T : Type _} [CommRing S] [CommRing T] (g : S →+* T)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Jacobson.lean:276]:
```suggestion
-- Porting note: move to better place
-- Porting note: make `S` and `T` universe polymorphic
lemma Subring.mem_closure_image_of {S T : Type _} [CommRing S] [CommRing T] (g : S →+* T)
```

File: Mathlib/RingTheory/Jacobson.lean [hunk 2]
```diff
@@ -291,74 +273,99 @@ open Polynomial
...
+    (u : Set S) (x : S) (hx : x ∈ Subring.closure u) : g x ∈ Subring.closure (g '' u) := by
+  rw [Subring.mem_closure] at hx ⊢
+  intro T₁ h₁
+  rw [← Subring.mem_comap]
+  apply hx
+  simp only [Subring.coe_comap, ← Set.image_subset_iff, SetLike.mem_coe]
+  exact h₁
+
+lemma mem_closure_X_union_C {R : Type _} [Ring R] (p : R[X]) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Jacobson.lean:285]:
```suggestion
-- Porting note: move to better place
lemma mem_closure_X_union_C {R : Type _} [Ring R] (p : R[X]) :
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
